US07888351B2
A) 3-Isopropylsulfanyl-propionic acid benzyl ester
To benzylacrylate (100 mg, 0.617 mmol) in ethanol (2 mL) are added triethylamine (95 uL, 0.679 mmol) and 2-propanethiol (58 uL, 0.617 mmol). After stirring at rt during 2 h, the solvent is evaporated to give a residue which is treated with dichloromethane and water. The organic phase is dried and evaporated to afford a colorless oil before purification by preparative HPLC (Column Waters C18 ODB 5 μm 19×50, Gradient: 0-2.5 min 5% ACN, 2.5-12.5 min 5-100% ACN, 12.5-15 min 100% ACN) to yield the title compound.

reactant | benzylacrylate | 0.617 mmol, 100 mg | C(C1=CC=CC=C1)OC(C=C)=O | C10H10O2
reactant | triethylamine | 0.679 mmol, 95 uL | C(C)N(CC)CC | C6H15N
reactant | 2-propanethiol | 0.617 mmol, 58 uL | CC(C)S | C3H8S
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-Isopropylsulfanyl-propionic acid benzyl ester | C(C1=CC=CC=C1)OC(CCSC(C)C)=O | C13H18O2S
